US06730792B2
2-Bromo-5-fluoro-phenol (0.87 ml, 7.9 mmol) and 2-thiopheneboronic acid (2.02 g, 15.8 mmol) are dissolved in 100 ml dioxane. The resultingsolution is flushed with argon before tetrakis(triphenylphosphine)palladium (456 mg, 0.395 mmol) and 2 ml of aqueous 2M sodium carbonate solution (20 mmol) are added. After flushing again with argon the mixture is refluxed for 15 hours at 100° C. The solution is allowed to cool to room temperature and the mixture is filtered. The filtrate is evaporated and the residue is taken up in dichloromethane and extracted with water. The organic layer is dried with sodium sulfate then concentrated. The residue is purified by chromatography (CH2Cl2/EtOH gradient 100:0 to 98:2) to yield 1.13 g of 2-(thien-2-yl)-5-fluorophenol (74%).

reactant | 2-Bromo-5-fluoro-phenol | 7.9 mmol, 0.87 ml | BrC1=C(C=C(C=C1)F)O | C6H4BrFO
reactant | 2-thiopheneboronic acid | 15.8 mmol, 2.02 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 20 mmol, 2M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.395 mmol, 456 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(thien-2-yl)-5-fluorophenol | 1.13 g, 74% | S1C(=CC=C1)C1=C(C=C(C=C1)F)O | C10H7FOS
